US07498440B2
4-[hydroxy(diphenyl)methyl]-1-{3-[(2-methylphenyl)oxy]propyl}-1-azoniabicyclo[2.2.2]octane bromide
Following the general procedure outlined in Example 3, 1-azabicyclo[2.2.2]oct-4-yl(diphenyl)methanol (0.0447 g, 0.152 mmol) and 3-bromopropyl 2-methylphenyl ether (0.0934 g, 0.407 mmol) in 2 CH3CN/3 CHCl3 (4.0 mL) were reacted to give the desired product (0.0586 g, 76.5%). EI-MS m/z 442(M+) Rt (2.17 min).

reactant | 1-azabicyclo[2.2.2]oct-4-yl(diphenyl)methanol | 0.152 mmol, 0.0447 g | N12CCC(CC1)(CC2)C(O)(C2=CC=CC=C2)C2=CC=CC=C2 | C20H23NO
reactant | 3-bromopropyl 2-methylphenyl ether | 0.407 mmol, 0.0934 g | CC1=C(C=CC=C1)OCCCBr | C10H13BrO
solvent | CH3CN | 4.0 mL | CC#N | C2H3N
product | 4-[hydroxy(diphenyl)methyl]-1-{3-[(2-methylphenyl)oxy]propyl}-1-azoniabicyclo[2.2.2]octane bromide | 0.0586 g, 76.5% | [Br-].OC(C12CC[N+](CC1)(CC2)CCCOC2=C(C=CC=C2)C)(C2=CC=CC=C2)C2=CC=CC=C2 | InChI=1S/C30H36NO2.BrH/c1-25-11-8-9-16-28(25)33-24-10-20-31-21-17-29(18-22-31,19-23-31)30(32,26-12-4-2-5-13-26)27-14-6-3-7-15-27;/h2-9,11-16,32H,10,17-24H2,1H3;1H/q+1;/p-1
